US08445509B2
Production of 1-(4-fluorophenyl)-6-methyl-2-oxo-1,2-dihydropyridine-3-carbonitrile
A solution of 2-cyano-N-(4-fluorophenyl)acetamide (15 g, 84.2 mmol), 4-methoxybut-3-en-2-one (12.6 g, 125.9 mmol) and 1,4-diazabicyclo[2.2.2]octane (9.4 g, 84.2 mmol) in 2-(2-methoxyethoxy)ethanol (150 mL) was stirred with heating at 120° C. for 5 hr. (3E)-4-Methoxybut-3-en-2-one (4.2 g, 41.9 mmol) and 1,4-diazabicyclo[2,2,2]octane (4.7 g, 41.9 mmol) were further added to the reaction mixture, and the mixture was stirred with heating at 120° C. for 1 hr. 2N Hydrochloric acid was added to the reaction mixture, and the mixture was extracted with ethyl acetate. The organic layer was washed with saturated brine, dried over anhydrous magnesium sulfate and filtered, and the solvent was evaporated under reduced pressure. The obtained solid was washed with ethyl acetate to give the title compound (6 g, 31%) as a pale-brown solid.

reactant | 2-cyano-N-(4-fluorophenyl)acetamide | 84.2 mmol, 15 g | C(#N)CC(=O)NC1=CC=C(C=C1)F | C9H7FN2O
reactant | 4-methoxybut-3-en-2-one | 125.9 mmol, 12.6 g | COC=CC(C)=O | C5H8O2
reactant | 1,4-diazabicyclo[2.2.2]octane | 84.2 mmol, 9.4 g | N12CCN(CC1)CC2 | C6H12N2
reactant | (3E)-4-Methoxybut-3-en-2-one | 41.9 mmol, 4.2 g | CO/C=C/C(C)=O | C5H8O2
reactant | 1,4-diazabicyclo[2,2,2]octane | 41.9 mmol, 4.7 g | N12CCN(CC1)CC2 | C6H12N2
reactant | Hydrochloric acid | 2N | Cl | ClH
solvent | 2-(2-methoxyethoxy)ethanol | 150 mL | COCCOCCO | C5H12O3
product | 1-(4-fluorophenyl)-6-methyl-2-oxo-1,2-dihydropyridine-3-carbonitrile | 6 g, 31% | FC1=CC=C(C=C1)N1C(C(=CC=C1C)C#N)=O | C13H9FN2O
